US07183320B2
N-[3-chloro-4-fluorophenylsulfonyl]-3-chloro-4-fluorobenzamidine
A mixture of 3-chloro-4-fluorobenzamidine hydrochloride (0.025 g, 0.133 mmol) and 3-chloro-4-fluorophenyl sulfonylchloride (0.0304 g, 0.133 mmol); the title compound is prepared essentially as described in Example 115. ES Positive Ion MS [M+H]+ ions observed: m/z 365 (35Cl, 35Cl), m/z 367 (35Cl, 37Cl) and m/z 369 (37Cl, 37Cl).

reactant | 3-chloro-4-fluorobenzamidine hydrochloride | 0.133 mmol, 0.025 g | Cl.ClC=1C=C(C(=N)N)C=CC1F
reactant | 3-chloro-4-fluorophenyl sulfonylchloride | 0.133 mmol, 0.0304 g | ClC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3Cl2FO2S
product | N-[3-chloro-4-fluorophenylsulfonyl]-3-chloro-4-fluorobenzamidine | ClC=1C=C(C=CC1F)S(=O)(=O)NC(C1=CC(=C(C=C1)F)Cl)=N | C13H8Cl2F2N2O2S
